Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
O[CH2:1][CH2:2][CH:3]1[N:4]([C:5](=[O:6])[O:7][C:8]([CH3:9])([CH3:10])[CH3:11])[CH2:12][CH2:13][N:14]([C:15]([O:16][C:17]([CH3:18])([CH3:19])[CH3:20])=[O:21])[CH2:22]1.[OH:23][c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1>>[CH2:1]([CH2:2][CH:3]1[N:4]([C:5](=[O:6])[O:7][C:8]([CH3:9])([CH3:10])[CH3:11])[CH2:12][CH2:13][N:14]([C:15]([O:16][C:17]([CH3:18])([CH3:19])[CH3:20])=[O:21])[CH2:22]1)[O:23][c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1,[OH:101][CH2:1][CH2:2][CH:3]1[N:4]([C:5](=[O:6])[O:7][C:8]([CH3:9])([CH3:10])[CH3:11])[CH2:12][CH2:13][N:14]([C:15]([O:16][C:17]([CH3:18])([CH3:19])[CH3:20])=[O:21])[CH2:22]1.[OH:23][c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1.c1ccccc1[P:301](c2ccccc2)c3ccccc3.[O:302]=[C:303]([N:304]=[N:305]C(=O)OCC)OCC>>[CH2:1]([CH2:2][CH:3]1[N:4]([C:5](=[O:6])[O:7][C:8]([CH3:9])([CH3:10])[CH3:11])[CH2:12][CH2:13][N:14]([C:15]([O:16][C:17]([CH3:18])([CH3:19])[CH3:20])=[O:21])[CH2:22]1)[O:23][c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1,Mitsunobu,"[(301, 305), ([305, 304], 304), (304, [304, 303]), ([303, 302], 302), (302, [302, 303]), ([303, 304], 23.1), ([23.1, 23], 23), (101, 301), ([301, 305], 305), (305, 101.1), ([101.1, 101], 101), (23, 1), ([1, 101], [101, 301])]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Br[c:1]1[cH:2][cH:3][c:4]([N+:5](=[O:6])[O-:7])[n:8][cH:9]1.[CH3:10][C:11](=[O:12])[NH:13][c:14]1[cH:15][cH:16][c:17]([OH:18])[cH:19][cH:20]1>>[c:1]1([O:18][c:17]2[cH:16][cH:15][c:14]([NH:13][C:11]([CH3:10])=[O:12])[cH:20][cH:19]2)[cH:2][cH:3][c:4]([N+:5](=[O:6])[O-:7])[n:8][cH:9]1,[CH3:10][C:11](=[O:12])[NH:13][c:14]1[cH:15][cH:16][c:17]([OH:18])[cH:19][cH:20]1.[Br:101][c:1]1[cH:2][cH:3][c:4]([N+:5](=[O:6])[OH:7])[n:8][cH:9]1.[H-:301].[Na+]>>[c:1]1([O:18][c:17]2[cH:16][cH:15][c:14]([NH:13][C:11]([CH3:10])=[O:12])[cH:20][cH:19]2)[cH:2][cH:3][c:4]([N+:5](=[O:6])[OH:7])[n:8][cH:9]1,SNAr_alco(thi)ol(para),"[(301, 18.1), ([18.1, 18], 18), (18, 1), ([1, 9], [9, 8]), ([8, 4], [4, 5]), ([5, 6], 6), (6, [6, 5]), ([5, 4], [4, 8]), ([8, 9], [9, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[CH:1]([CH3:2])[c:3]1[cH:4][cH:5][c:6](-[c:7]2[cH:8][cH:9][c:10]([Cl:11])[cH:12][cH:13]2)[cH:14][cH:15]1.[CH3:16][C:17](=[O:18])[N:19]1[CH2:20][CH2:21][NH:22][CH2:23][CH2:24]1>>[CH:1]([CH3:2])([c:3]1[cH:4][cH:5][c:6](-[c:7]2[cH:8][cH:9][c:10]([Cl:11])[cH:12][cH:13]2)[cH:14][cH:15]1)[N:22]1[CH2:21][CH2:20][N:19]([C:17]([CH3:16])=[O:18])[CH2:24][CH2:23]1,[Cl:101][CH:1]([CH3:2])[c:3]1[cH:4][cH:5][c:6](-[c:7]2[cH:8][cH:9][c:10]([Cl:11])[cH:12][cH:13]2)[cH:14][cH:15]1.[CH3:16][C:17](=[O:18])[N:19]1[CH2:20][CH2:21][NH:22][CH2:23][CH2:24]1>>[CH:1]([CH3:2])([c:3]1[cH:4][cH:5][c:6](-[c:7]2[cH:8][cH:9][c:10]([Cl:11])[cH:12][cH:13]2)[cH:14][cH:15]1)[N:22]1[CH2:21][CH2:20][N:19]([C:17]([CH3:16])=[O:18])[CH2:24][CH2:23]1,SN2,"[(22, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
C[O:1][c:2]1[cH:3][c:4]2[n:5]([CH3:6])[cH:7][c:8]([C:9]([NH:10][CH3:11])=[O:12])[c:13]2[cH:14][cH:15]1>>[OH:1][c:2]1[cH:3][c:4]2[n:5]([CH3:6])[cH:7][c:8]([C:9]([NH:10][CH3:11])=[O:12])[c:13]2[cH:14][cH:15]1,[CH3:101][O:1][c:2]1[cH:3][c:4]2[n:5]([CH3:6])[cH:7][c:8]([C:9]([NH:10][CH3:11])=[O:12])[c:13]2[cH:14][cH:15]1.Br[B:301](Br)[Br:302].[OH2:303]>>[OH:1][c:2]1[cH:3][c:4]2[n:5]([CH3:6])[cH:7][c:8]([C:9]([NH:10][CH3:11])=[O:12])[c:13]2[cH:14][cH:15]1,O_demethylation,"[(1, 301), ([301, 302], 302), (302, 101), ([101, 1], 1), (303, 301), ([301, 1], 1)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O[C:1]([c:2]1[cH:3][c:4]([C:5]([O:6][CH3:7])=[O:8])[cH:9][c:10](-[c:11]2[cH:12][c:13]([Cl:14])[cH:15][cH:16][c:17]2[Cl:18])[cH:19]1)=[O:20].[CH3:21][N:22]([CH3:23])[CH2:24][CH2:25][NH2:26]>>[C:1]([c:2]1[cH:3][c:4]([C:5]([O:6][CH3:7])=[O:8])[cH:9][c:10](-[c:11]2[cH:12][c:13]([Cl:14])[cH:15][cH:16][c:17]2[Cl:18])[cH:19]1)(=[O:20])[NH:26][CH2:25][CH2:24][N:22]([CH3:21])[CH3:23],[OH:101][C:1]([c:2]1[cH:3][c:4]([C:5]([O:6][CH3:7])=[O:8])[cH:9][c:10](-[c:11]2[cH:12][c:13]([Cl:14])[cH:15][cH:16][c:17]2[Cl:18])[cH:19]1)=[O:20].[CH3:21][N:22]([CH3:23])[CH2:24][CH2:25][NH2:26].[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1]([c:2]1[cH:3][c:4]([C:5]([O:6][CH3:7])=[O:8])[cH:9][c:10](-[c:11]2[cH:12][c:13]([Cl:14])[cH:15][cH:16][c:17]2[Cl:18])[cH:19]1)(=[O:20])[NH:26][CH2:25][CH2:24][N:22]([CH3:21])[CH3:23],DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (26, 1), ([1, 20], 20), (303, 26.1), ([26.1, 26], 26), (20, [20, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
